US07812025B2
(4) N-(3,4-Dimethylisoxazol-5-yl)-4-(5-phenylpyridin-2-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl(3,4-dimethylisoxazol-5-yl)carbamate (251 mg, 0.872 mmol), 1-(5-phenylpyridin-2-yl)piperazine (200 mg, 0.872 mmol), diisopropylethylamine (0.304 ml, 1.74 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 12 hours, then the reaction solution was poured into water, and extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduce pressure, and the residue was recrystallized from ethyl acetate to give the titled compound 150 mg (45.6%) as solid product.

reactant | 2,2,2-trichloroethyl(3,4-dimethylisoxazol-5-yl)carbamate | 0.872 mmol, 251 mg | ClC(COC(NC1=C(C(=NO1)C)C)=O)(Cl)Cl | C8H9Cl3N2O3
reactant | 1-(5-phenylpyridin-2-yl)piperazine | 0.872 mmol, 200 mg | C1(=CC=CC=C1)C=1C=CC(=NC1)N1CCNCC1 | C15H17N3
reactant | diisopropylethylamine | 1.74 mmol, 0.304 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(3,4-Dimethylisoxazol-5-yl)-4-(5-phenylpyridin-2-yl)piperazine-1-carboxamide | 150 mg, 45.6% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C1=NC=C(C=C1)C1=CC=CC=C1 | C21H23N5O2
